US08242145B2
Step 1: {3-[4-Chloro-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester
[3-(2-Bromomethyl-4-chloro-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester (0.15 g, 0.36 mmol), 2-oxazolidone (0.063 g, 0.72 mmol), and sodium hydride (60% in mineral oil; 0.03 g, 0.72 mmol) were combined in 1,4-dioxane (10 mL) and stirred at 80° C. for 2 hours. The mixture was cooled to room temperature to give the title compound, which was used directly as a crude solution in the hydrolysis step.

reactant | [3-(2-Bromomethyl-4-chloro-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester | 0.36 mmol, 0.15 g | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Cl)CBr)=O | C18H18BrClO4
reactant | 2-oxazolidone | 0.72 mmol, 0.063 g | O1[C-]=NC(C1)=O
reactant | sodium hydride | 0.72 mmol, 0.03 g | [H-].[Na+]
reactant | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | {3-[4-Chloro-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Cl)CN1C(OCC1)=O)=O | C21H22ClNO6
